US08624040B2
Step 1: ethyl 5-(3-chlorobenzo[b]thiophene-2-carbonyl)-7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate
A solution of 3-chloro-1-benzothiophene-2-carboxylic acid (23.4 mg, 0.11 mmol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.048 g, 0.11 mmol) and N,N-diisopropylethylamine (52.2 μL, 0.3 mmol) in N,N-dimethylformamide (1 mL, 12.9 mmol) was stirred at room temperature for 15 minutes. A solution of 7,7-dimethyl-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide (31 mg, 0.1 mmol) in N,N-dimethylformamide (1 mL) was then added and the reaction was further stirred at room temperature overnight. The solution was evaporated to dryness and the residue obtained was partitioned between DCM (2 mL) and half-saturated aqueous sodium bicarbonate solution (2 mL). Upon separation of the layers, the aqueous layer was extracted with additional DCM (2 mL) and the combined organic layers were concentrated to dryness to afford the title compound.

reactant | 3-chloro-1-benzothiophene-2-carboxylic acid | 0.11 mmol, 23.4 mg | ClC1=C(SC2=C1C=CC=C2)C(=O)O | C9H5ClO2S
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.11 mmol, 0.048 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.3 mmol, 52.2 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 7,7-dimethyl-N-(tetrahydro-2H-pyran-2-yloxy)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxamide | 0.1 mmol, 31 mg | CC1(C2=C(CNC1)C=C(S2)C(=O)NOC2OCCCC2)C | C15H22N2O3S
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 12.9 mmol, 1 mL | CN(C=O)C | C3H7NO
product | ethyl 5-(3-chlorobenzo[b]thiophene-2-carbonyl)-7,7-dimethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | ClC=1C2=C(SC1C(=O)N1CC3=C(C(C1)(C)C)SC(=C3)C(=O)OCC)C=CC=C2 | C21H20ClNO3S2
